US05023258
3-(4-[4-(4-[3-Chloropropanesulphonamido]phenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
To a solution of 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (see Preparation 1) (0.2 g, 0.37 mmole) and pyridine (0.1 g, 1.2 mmole) in methylene chloride (15 ml) at 0° was added, dropwise, a solution of 3-chloropropanesulphonyl chloride (0.072 g, 0.4 mmole) in methylene chloride (1 ml). The resulting mixture was stirred at 0° for 2 hours, an additional portion of 3-chloropropanesulphonyl chloride (0.036 g, 0.2 mmole) was added and stirring was continued overnight at room temperature, the reaction mixture was quenched by the addition of aqueous citric acid, the organic phase separated and washed with water. After drying over magnesium sulphate, the organic phase was concentrated under reduced pressure and the resulting gum purified by flash chromatography on silica gel eluting with ethyl acetate to yield, after collection and evaporation of appropriate fractions, the desired product as a foam, m.p. 80°- 81° (0.24 g, 96%).

reactant | 3-(4-[4-(4-aminophenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.37 mmole, 0.2 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C27H28Cl2N6O2
reactant | pyridine | 1.2 mmole, 0.1 g | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropanesulphonyl chloride | 0.4 mmole, 0.072 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 3-chloropropanesulphonyl chloride | 0.2 mmole, 0.036 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-[4-(4-[3-Chloropropanesulphonamido]phenyl)piperazin-1-yl]phenoxy)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClCCCS(=O)(=O)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCC(CN2N=CN=C2)(O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C30H33Cl3N6O4S
